US03936478
As the starting material, which is converted to 25-hydroxycholesterol by Grignard reaction, and then dehydrated in the presence of sulfuric acid or phosphorus oxychloride to provide desmosterol or an ester thereof (see J. Org. Chem. 23, p. 459, and J. Lipid Research, 8, p. 152). This method however again has such deficiencies as that the starting 25-ketonorcholesterol is expensive and that the yield of dehydration reaction is low. Particularly when phosphorus oxychloride is used in the reaction, substantial amounts of 25-dehydrocholesterol 3-acetate is produced as a by-product. Thus, the method is not industrially advantageous.

reactant | 25-hydroxycholesterol | OC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | desmosterol | C[C@H](CCC=C(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C27H44O
